US05280032
37.0 g of 1-(3-chlorophenyl)-2-(2-tertbutoxyethoxy)ethanol was dissolved in 70 ml of methylene chloride. To the solution were added 12.9 q of pyridine and 16.6 g of acetic anhydride. The resulting mixture was stirred for 24 hours at room temperature. The reaction mixture was added to a mixture of 150 ml of ice water and 100 ml of methylene chloride. The resulting mixture was adjusted to pH 2 with 6N hydrochloric acid. The organic layer was separated, washed with a saturatred aqueous sodium hydrogencarbonate solution and water in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 40.0 g of oily 1 acetoxy-1-(3-chlorophenyl)-2-(2-tertbutoxyethoxy)ethane.

reactant | 1-(3-chlorophenyl)-2-(2-tertbutoxyethoxy)ethanol | 37.0 g | ClC=1C=C(C=CC1)C(COCCOC(C)(C)C)O | C14H21ClO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 16.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | acetoxy-1-(3-chlorophenyl)-2-(2-tertbutoxyethoxy)ethane | C(C)(=O)OC(COCCOC(C)(C)C)C1=CC(=CC=C1)Cl | C16H23ClO4
